data/oMe_Silver.jsonl
{"reaction_id": "NG-010_1-c2ccccc2_2-OC_3-c2cccc(C)c2","name": "Bamford-Stevens Reaction","level": "medium","reactants_smiles": ["C(=NNS(=O)(=O)c1ccc(C)cc1)(C(c2ccccc2)(OC))(c2cccc(C)c2)"],"products_smiles": ["C(=C(c2ccccc2)(OC))C(c2cccc(C)c2)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=N[N-]S(=O)(=O)c1ccc(C)cc1)(C(c2ccccc2)(OC))(c2cccc(C)c2)","rationale": "Base abstracts a proton alpha to the hydrazone nitrogen, stabilized by resonance into the adjacent imine, making the nitrogen anion more nucleophilic and primed for tosylate elimination."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[N+]=[N-])(C(c2ccccc2)(OC))(c2cccc(C)c2)","rationale": "The negatively charged nitrogen facilitates expulsion of the tosylate, a good leaving group due to resonance stabilization by the sulfonyl group, forming a diazo species."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C](C(c2ccccc2)(OC))(c2cccc(C)c2)","rationale": "The diazo compound thermally or base-promotedly loses N₂ gas, a highly stable leaving group, generating an electron-deficient carbene intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=C(c2ccccc2)(OC))C(c2cccc(C)c2)","rationale": "The carbene undergoes a 1,2-shift of c2ccccc2 or OC to stabilize the electron-deficient center, forming the more thermodynamically stable alkene via rearrangement."}],"description": "Under basic conditions, the Bamford–Stevens reaction proceeds via deprotonation of the tosylhydrazone, generating an anion that eliminates the tosylate. This forms a diazo intermediate, which loses nitrogen to yield a carbene. A 1,2-shift then rearranges the carbene to the alkene product."}
{"reaction_id": "NR-337_1-C(C)(C)C_2-OC(C)(C)C_3-C(F)(F)F_4-c2cnccc2_5-CC","level": "medium","name": "Rosenmund-von Braun Reaction","reactants_smiles": ["c1(I)c(C(C)(C)C)c(OC(C)(C)C)c(C(F)(F)F)c(c2cnccc2)c1CC","N#C[Cu]"],"products_smiles": ["c1(C#N)c(C(C)(C)C)c(OC(C)(C)C)c(C(F)(F)F)c(c2cnccc2)c1CC"],"conditions": "High temperature","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Cu](I)(C#N)c1c(C(C)(C)C)c(OC(C)(C)C)c(C(F)(F)F)c(c2cnccc2)c1CC","step_weight": 0,"rationale": "High temperature promotes oxidative addition of the aryl iodide to Cu(I), facilitated by the weak C–I bond and good leaving group ability of iodide, forming a higher oxidation state Cu(III) intermediate with CN ligand."},{"step": 2,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(C(C)(C)C)c(OC(C)(C)C)c(C(F)(F)F)c(c2cnccc2)c1CC","step_weight": 0,"rationale": "Reductive elimination from Cu(III) is favored by the strong bond formation between the aryl group and the nucleophilic CN, releasing stable Cu(I) and driving the reaction thermodynamically."}],"description": "In the Rosenmund–von Braun reaction, aryl iodide undergoes oxidative addition to a copper(I) cyanide species at high temperature, forming an aryl–Cu(III)–CN intermediate. Subsequent reductive elimination yields the aryl nitrile, driven by strong C–CN bond formation and thermodynamic stability."}
